US08022069B2
N-{(R)-2-[(2S,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl) -piperidin-2-yl]-1-methyl-ethyl}-acetamide
To a stirred solution of 1.0 mmol [(2S,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetaldehyde in 10 ml of THF are added 2.0 mmol of methyl magnesium bromide (3M in THF) at 0° C. The reaction mixture is allowed to warm to RT and stirred for 1 h, diluted with an aqueous solution of 1N potassium hydrogen sulfate and extracted with TBME. The organic phases are combined and dried over Na2SO4. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound, which is identified based on its Rf value.

reactant | [(2S,4R,5R)-4-[4-((R)-2-ethoxy-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl)-piperidin-2-yl]-acetaldehyde | 1.0 mmol | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)CC=O)C | C39H52N2O8S
reactant | methyl magnesium bromide | 2.0 mmol, 3M | C[Mg]Br
reactant | THF | 10 ml | C1CCOC1 | C4H8O
solvent | potassium hydrogen sulfate | 1N | S(=O)(=O)(O)[O-].[K+]
product | N-{(R)-2-[(2S,4R,5R)-4-[4-((R)-2-Ethoxy-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl) -3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-1-(toluene-4-sulfonyl) -piperidin-2-yl]-1-methyl-ethyl}-acetamide | C(C)O[C@@H](COCC1=CC=C(C=C1)[C@H]1C[C@H](N(C[C@@H]1OCC=1C=CC2=C(N(CCO2)CCCOC)C1)S(=O)(=O)C1=CC=C(C=C1)C)C[C@@H](C)NC(C)=O)C | C42H59N3O8S
